US05604237
3-(2-Bromoethyl)nitrobenzene
Phosphorus tribromide (0.94 ml) was added dropwise to a solution of 3-nitrophenethyl alcohol (5 g) in anhydrous diethyl ether (30 ml) at 0°. The mixture was stirred at room temperature for 2 hours and then treated with a solution of potassium carbonate and then water. The organic layer was dried and concentrated in vacuo to give the title compound as an oil (4.51 g).

reactant | Phosphorus tribromide | 0.94 ml | P(Br)(Br)Br | Br3P
reactant | 3-nitrophenethyl alcohol | 5 g | [N+](=O)([O-])C=1C=C(CCO)C=CC1 | C8H9NO3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
product | 3-(2-Bromoethyl)nitrobenzene | 4.51 g | BrCCC=1C=C(C=CC1)[N+](=O)[O-] | C8H8BrNO2
